US08633173B2
A round bottom flask equipped with a drying tube was charged with 4-piperidin-4-yl-morpholine (0.21 g, 1.2 mmol), cupric acetate (0.34 g, 1.9 mmol), 4-bromobenzeneboronic acid (0.50 g, 2.5 mmol), pyridine (0.20 mL, 2.5 mmol) and dichloromethane (5 mL, 80 mmol). The blue suspension was stirred open to the air for 6 days at room temperature. Water (25 mL) was added to the green-brown suspension and stirred for 10 minutes. The mixture was extracted with ethyl acetate (3×25 mL). The combined organic layer was washed with saturated aqueous sodium chloride (25 mL), dried over magnesium sulfate, filtered and evaporated. The residue was purified via chromatography using silica gel column (40 g) and 0%→8% methanol: dichloromethane solvent gradient. 4-[1-(4-Bromo-phenyl)-piperidin-4-yl]-morpholine was isolated as a tan solid (0.168 g, 41%). MP=146-149° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 7.32 (d, J=7.5 Hz, 2H), 6.79 (d, J=7.8 Hz, 2H), 3.76-3.71 (m, 4H), 3.68 (d, J=12.8 Hz, 2H), 2.71 (t, J=12.3 Hz, 2H), 2.60-2.54 (m, 4H), 2.37-2.27 (m, 1H), 1.93 (d, J=11.3 Hz, 2H), 1.69-1.58 (m, 2H). MS=325, 327 (MH)+.

reactant | 4-piperidin-4-yl-morpholine | 1.2 mmol, 0.21 g | N1CCC(CC1)N1CCOCC1 | C9H18N2O
reactant | 4-bromobenzeneboronic acid | 2.5 mmol, 0.50 g | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
reactant | pyridine | 2.5 mmol, 0.20 mL | N1=CC=CC=C1 | C5H5N
reactant | dichloromethane | 80 mmol, 5 mL | ClCCl | CH2Cl2
solvent | Water | 25 mL | O | H2O
product | 4-[1-(4-Bromo-phenyl)-piperidin-4-yl]-morpholine | BrC1=CC=C(C=C1)N1CCC(CC1)N1CCOCC1 | C15H21BrN2O
